US07700594B2
N-Methylindole-6-boronic acid
A mixture of indole-6-boronic acid (0.100 g, 0.615 mmol), sodium hydride (0.07 g, 20 mmol) and THF (5 mL, 60 mmol) was stirred at rt for 20 min. then methyl iodide (100 μL, 20 mmol) was added and the mixture was allowed ro stir at rt for 3 hours. The reaction was quenched with sat. NH4Cl solution, washed with brine and dried over Na2SO4, then the solvent was removed in vacuo. The crude product was purified by chromatography over silica gel eluting with 1:9 EtOAc/hexane and 1% MeOH, yielding the desired product. 1H NMR (400 MHz, CDCl3) δ ppm 3.99 (s, 3H), 6.58 (m, 1H). 7.23 (m, 1H), 7.81 (m, 1H), 8.08 (m, 1H) and 8.34 (m, 1H). MS (ES+): m/z 176.15 [MH+].

reactant | indole-6-boronic acid | 0.615 mmol, 0.100 g | N1C=CC2=CC=C(C=C12)B(O)O | C8H8BNO2
reactant | sodium hydride | 20 mmol, 0.07 g | [H-].[Na+]
reactant | THF | 60 mmol, 5 mL | C1CCOC1 | C4H8O
reactant | methyl iodide | 20 mmol, 100 μL | CI | CH3I
product | N-Methylindole-6-boronic acid | CN1C=CC2=CC=C(C=C12)B(O)O | C9H10BNO2
